Relia ver2
*SPICE Netlist generated by Advanced Sim server on 18-12-2025 08:52:39
.options MixedSimGenerated

*Schematic Netlist:
CC41 +3V3_ANALOG 0 1p
CC42 +3V3_ANALOG 0 0.10 µF
VV? +3V3_ANALOG 0 5 AC 1 0

.PLOT {V(+3V3_ANALOG)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

.END